US07888344B2
2-Bromo-5-[4-(methylthio)phenyl]cyclohexane-1,3-dione
To a stirred solution of 5-[4-(methylthio)phenyl]cyclohexane-1,3-dione (1.08 g, 4.6 mmol) in AcOH (10 mL) at r.t. was added bromine (0.74 g, 0.23 mL, 4.6 mmol) dropwise. The reaction was then carried out according to Method A to give the title compound (1.03 g, 70%) as a white solid. LCMS (ES+) 314.9 (M+H)+.

reactant | 5-[4-(methylthio)phenyl]cyclohexane-1,3-dione | 4.6 mmol, 1.08 g | CSC1=CC=C(C=C1)C1CC(CC(C1)=O)=O | C13H14O2S
reactant | bromine | 4.6 mmol, 0.23 mL, 0.74 g | BrBr | Br2
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 2-Bromo-5-[4-(methylthio)phenyl]cyclohexane-1,3-dione | 1.03 g, 70% | BrC1C(CC(CC1=O)C1=CC=C(C=C1)SC)=O | C13H13BrO2S
